US08217032B2
Trifluoromethanesulfonic acid 6-methoxy-1-[4-(2-piperidin-1-yl-ethoxy)-benzyl]-naphthalen-2-yl ester
Dissolve 6-methoxy-1-[4-(2-piperidin-1-yl-ethoxy)-benzyl]-naphthalen-2-ol in dichloroethane (300 mL) and add N-phenylbis(trifluoromethanesulfonimide (15.0 g, 42.0 mmol). Add triethylamine (20 mL, 143.5 mmol) and heat to reflux for 6 hours. Concentrate in vacuo and purify the residue by column chromatography using a silica gel column eluting with a linear gradient beginning with dichloromethane and ending with 20:1 dichloromethane:methanol to give 13.6 g of the title compound (88%).

reactant | 6-methoxy-1-[4-(2-piperidin-1-yl-ethoxy)-benzyl]-naphthalen-2-ol | COC=1C=C2C=CC(=C(C2=CC1)CC1=CC=C(C=C1)OCCN1CCCCC1)O | C25H29NO3
reactant | trifluoromethanesulfonimide | 42.0 mmol, 15.0 g | [N-](S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F
reactant | triethylamine | 143.5 mmol, 20 mL | C(C)N(CC)CC | C6H15N
solvent | dichloroethane | 300 mL | ClC(C)Cl | C2H4Cl2
product | Trifluoromethanesulfonic acid 6-methoxy-1-[4-(2-piperidin-1-yl-ethoxy)-benzyl]-naphthalen-2-yl ester | 13.6 g, 88% | COC=1C=C2C=CC(=C(C2=CC1)CC1=CC=C(C=C1)OCCN1CCCCC1)OS(=O)(=O)C(F)(F)F | C26H28F3NO5S
